US03946042
3-Diethylamino-2,2-dimethylpropyl-p-chlorophenylcinnamate hydrochloride
P-Chlorocinnamic acid (27.5 g, 0.15 mole) was added with rapid stirring to thionyl chloride (52.5 ml) and refluxed for 31/2 hours. The mixture was stripped of excess thionyl chloride under reduced pressure, benzene (100 ml) was added and the mixture was again stripped of solvent. The residue was treated with a solution of 3-diethylamino-2,2-dimethylpropanol (24.2 g, 0.15 mole) in benzene (500 ml), refluxed for 3 hours, cooled, diluted with petroleum ether (500 ml), and stored overnight at room temperature. The benzene-petroleum ether solution was decanted, the residue dissolved in H2O (700 ml) and the solution adjusted to pH 10 with saturated aqueous K2CO3 (60 ml). The product was extracted from the aqueous phase with benzene (800 ml) in portions and the extract dried overnight over MgSO4 and Darco. The solution was filtered and the filtrate adjusted to pH 2 with a solution of dry HCl in ether (cooled in an ice bath). Petroleum ether (500 ml) was added and the product oiled out of solution. The benzene-petroleum ether solution was decanted and the product was recrystallized from ethyl acetate (600 ml), yield: 33 g (61%). A sample was recrystallized from ethyl acetate, m.p. 132°-134°.

reactant | P-Chlorocinnamic acid | 0.15 mole, 27.5 g | C1=CC(=CC=C1/C=C/C(=O)O)Cl | C9H7ClO2
reactant | thionyl chloride | 52.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-diethylamino-2,2-dimethylpropanol | 0.15 mole, 24.2 g | C(C)N(CC(CO)(C)C)CC | C9H21NO
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-Diethylamino-2,2-dimethylpropyl-p-chlorophenylcinnamate hydrochloride | Cl.C(C)N(CC(CC(=C(C(=O)O)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)(C)C)CC | InChI=1S/C24H30ClNO2.ClH/c1-5-26(6-2)17-24(3,4)16-21(18-12-14-20(25)15-13-18)22(23(27)28)19-10-8-7-9-11-19;/h7-15H,5-6,16-17H2,1-4H3,(H,27,28);1H
